US09212147B2
To methyl[1,4]benzodioxino[2,3-c]pyridazine-3-carboxylate (950 mg) was added a mixed solvent of tetrahydrofuran-methanol (1:1) (20 ml), and the mixture was stirred under ice-cooling. To the mixture was added sodium borohydride (450 mg), and the mixture was stirred at 0° C. for 2 hr. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the residue was washed with water to give [1,4]benzodioxino[2,3-c]pyridazin-3-ylmethanol (560 mg).

reactant | methyl[1,4]benzodioxino[2,3-c]pyridazine-3-carboxylate | 950 mg | COC(=O)C1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C12H8N2O4
reactant | tetrahydrofuran-methanol | 20 ml | O1C(CCC1)CO | C5H10O2
reactant | sodium borohydride | 450 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | [1,4]benzodioxino[2,3-c]pyridazin-3-ylmethanol | 560 mg | N1=NC(=CC2=C1OC1=C(O2)C=CC=C1)CO | C11H8N2O3
